US08835602B2
A. Synthesis of Boc-Pro-Gly-NH—(CH2)3—OH
To a cold (−15° C.) solution of Boc-Pro-Gly-OH (610 mg, 2.24 mmol) and NMM (369 μl, 3.36 mmol) in THF (8 mL) was added ECF (2201 μl, 2.3 mmol) and stirred vigorously. After 2 min. a solution of 1-amino-3-propyl alcohol (220 mg, 2.68 mmol) in THF (2 mL) was added to it followed by NMM (505 mg, 5 mmol) and stirred for further 30 minutes. The mixture was warmed to r.t. and stirred for 8 h. The solvent was removed under reduced pressure to give a residue which was diluted with EtOAc and washed with saturated citric acid, saturated NaHCO3 and the organic layer was dried over Na2SO4 and concentrated under vacuum to give a residue, which was purified by silica gel flash column chromatography (EtOAc:MeOH—50:1) to give the desired product as a thick oil in good yields (633 mg, 80%). TLC (MeOH:DCM—1:4; Rf—0.5).

reactant | Boc-Pro-Gly-OH | 2.24 mmol, 610 mg | N1([C@H](C(=O)NCC(=O)O)CCC1)C(=O)OC(C)(C)C | C12H20N2O5
reactant | NMM | 3.36 mmol, 369 μl | CN1CCOCC1 | C5H11NO
reactant | 1-amino-3-propyl alcohol | 2.68 mmol, 220 mg | NCCCO | C3H9NO
reactant | NMM | 5 mmol, 505 mg | CN1CCOCC1 | C5H11NO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Boc-Pro-Gly-NH—(CH2)3—OH | N1([C@H](C(=O)NCC(=O)NCCCO)CCC1)C(=O)OC(C)(C)C | C15H27N3O5
